US04900731
(Hexadecyloxy) Acetaldehyde
A solution of 49.4 g of oxalyl chloride in 900 ml of methylene chloride was cooled to -60° C. and a solution of 60.82 g of dimethyl sulfoxide in 175 ml of methylene chloride was added dropwise over 1/2 hour so that the temperature did not exceed -50° C. The solution was then warmed to -20° C. and maintained at -20° C. in a dry ice-carbon tetrachloride bath as a solution of 44.6 g of 2-(hexadecyloxy) ethanol in 350 ml of methylene chloride was added over 20 minutes. The mixture was stirred at -20° C. for 20 minutes, 98.2 g of triethylamine was added and the mixture was allowed to warm to room temperature. Water was added, then the organic layer was separated, washed with dilute hydrochloric acid then dilute aqueous sodium bicarbonate until neutral, dried over sodium sulfate and activated charcoal and filtered through silica gel. The solvent was removed at a temperature not exceeding 30° C. The residue was dissolved in petroleum ether, washed with dilute aqueous sodium bicarbonate, dried over sodium sulfate and filtered through magnesium silicate. The filtrate was stored as a solution in a freezer. Immediately prior to use as the starting material in Example 4, the solvent was removed from the filtrate, giving 32 g of the desired compound as a yellow solid.

reactant | oxalyl chloride | 49.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 60.82 g | CS(=O)C | C2H6OS
reactant | 2-(hexadecyloxy) ethanol | 44.6 g | C(CCCCCCCCCCCCCCC)OCCO | C18H38O2
reactant | triethylamine | 98.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | (Hexadecyloxy) Acetaldehyde | 32 g | C(CCCCCCCCCCCCCCC)OCC=O | C18H36O2
